US09085576B2
Step 2: 5-((3-Cyclopropylprop-2-yn-1-yl)oxy)picolinic acid
The title compound was synthesized analogously according to Method KS starting from methyl 5-hydroxypicolinate (Molbridge) and 3-cyclopropylprop-2-yn-1-ol. MS m/z: 218 (M+H).

reactant | methyl 5-hydroxypicolinate | OC=1C=CC(=NC1)C(=O)OC | C7H7NO3
reactant | 3-cyclopropylprop-2-yn-1-ol | C1(CC1)C#CCO | C6H8O
product | 5-((3-Cyclopropylprop-2-yn-1-yl)oxy)picolinic acid | C1(CC1)C#CCOC=1C=CC(=NC1)C(=O)O | C12H11NO3
